US07786165B2
4-(2,6-dimethylphenoxy)indan-1-one
A mixture of 2-bromo-1,3-dimethylbenzene (15.0 g, 81.1 mmol), 4-hydroxyindan-1-one (10.0 g, 67.5 mmol), copper(II) oxide (9.13 g, 114 mmol), potassium carbonate (18.7 g, 135 mmol), pyridine (200 mL) and o-xylene (100 mL) was stirred under a nitrogen atmosphere at 130° C. for 18 hr. After cooling the reaction mixture, a mixed solvent of toluene and methanol was added. The insoluble material was filtered off, and the filtrate was concentrated. Water was added to the residue, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1 M hydrochloric acid, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. Chloroform was added to the residue, the insoluble material was filtered off and the filtrate was purified by silica gel column chromatography (hexane/ethyl acetate=90/10-hexane/ethyl acetate=0/100) to give the title compound (0.373 g, yield 2%) as a yellow oil.

reactant | 2-bromo-1,3-dimethylbenzene | 81.1 mmol, 15.0 g | BrC1=C(C=CC=C1C)C | C8H9Br
reactant | 4-hydroxyindan-1-one | 67.5 mmol, 10.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | potassium carbonate | 135 mmol, 18.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | pyridine | 200 mL | N1=CC=CC=C1 | C5H5N
catalyst | copper(II) oxide | 114 mmol, 9.13 g | [Cu]=O
solvent | methanol | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | o-xylene | 100 mL | CC=1C=CC=CC1C | C8H10
product | 4-(2,6-dimethylphenoxy)indan-1-one | 0.373 g, yield 2% | CC1=C(OC2=C3CCC(C3=CC=C2)=O)C(=CC=C1)C | C17H16O2
